R0 (VDD net30) resistor
R2 (VIN1 VSS) resistor
R1 (VDD VOUT1) resistor
M2 (VOUT1 net30 VSS VSS) nmos4
M1 (VOUT1 VIN1 VSS VSS) nmos4
M0 (net30 VB1 VIN1 VSS) nmos4